US04456752
4.0 g. (0.01 moles) of 3,9,9-tribromo-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one are dissolved in 10 ml. of dimethyl sulfoxide. To the solution 2.8 ml. (0.03 moles) of phenylhydrazine are added. The reaction mixture is allowed to stand for three days whereupon 20 ml. of water are added. The solvent is decanted from the precipitated substance and the product is recrystallized from methanol. 1.3 g. (34.7%) of 3-bromo-9-(phenylhydrazono)-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one are obtained, melting at 190° to 192° C.

reactant | 3,9,9-tribromo-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one | 0.01 moles | BrC1=CN=C2N(C1=O)C(CCC2(Br)Br)C | C9H9Br3N2O
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | phenylhydrazine | 0.03 moles | C1(=CC=CC=C1)NN | C6H8N2
solvent | water | O | H2O
product | 3-bromo-9-(phenylhydrazono)-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one | 34.7% | BrC1=CN=C2N(C1=O)C(CCC2=NNC2=CC=CC=C2)C | C15H15BrN4O
